US09233968B1
To 8 ml of DMF was added 4-iodo-1H-indazol-3-amine (690 mg, 2.65 mmol) and 3-ethynylaniline (480 mg, 1.5 eq., 4.1 mmol). Following that, Bis(triphenylphosphine) palladium(II) dichloride (180 mg, 0.25 mmol, 10 mol %), Copper Iodide (100 mg, 0.52 mmol, 20 mol %), Triphenylphosphine (18 mg, 0.07 mmol, 3 mol %) and 8 ml of triethylamine was added. Nitrogen was bubbled through the reaction mixture for 15 minutes. The reaction was then set with a reflux condenser, set under nitrogen atmosphere, and heated at 60° C. for 2 hours. After that, the reaction was cooled to room temperature and 40 ml of ethyl acetate was added. The organic layer was extracted with aqueous sodium bicarbonate (3×40 ml), brine (3×40 ml), dried using anhydrous sodium sulfate, loaded onto silica and columned to give 4-((3-aminophenyl)ethynyl)-1H-indazol-3-amine.

reactant | DMF | 8 ml | CN(C)C=O | C3H7NO
reactant | 4-iodo-1H-indazol-3-amine | 2.65 mmol, 690 mg | IC1=C2C(=NNC2=CC=C1)N | C7H6IN3
reactant | 3-ethynylaniline | 4.1 mmol, 480 mg, 1.5 eq. | C(#C)C=1C=C(N)C=CC1 | C8H7N
reactant | Triphenylphosphine | 0.07 mmol, 18 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | Bis(triphenylphosphine) palladium(II) dichloride | 0.25 mmol, 180 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | Copper Iodide | 0.52 mmol, 100 mg | [Cu](I)I
solvent | triethylamine | 8 ml | C(C)N(CC)CC | C6H15N
product | 4-((3-aminophenyl)ethynyl)-1H-indazol-3-amine | NC=1C=C(C=CC1)C#CC1=C2C(=NNC2=CC=C1)N | C15H12N4
